### PR TITLE
an n-uniform hypergraph

### PR DESCRIPTION
**Pull request by bblfish**
This is a simple n-uniform hypergraph inspired from other similar categories from the finite sets categories. This should cover any small category with 2 objects and n arrows (including 0) from the first to the second. 

If this is useful I guess it would need splitting into different files, and perhaps more mappings to other categories to test it, ...

One may be able to show that a functor from Hypgergraph to set is equivalent to a functor from Span to Set with the middle node fixed on an object in Set with n elements.

Let me know what improvements would be needed, I'll be happy to work on them.

### CODE REVIEW

File: src/Categories/Category/Finite/Fin/Instance/HGraph.agda [hunk 1]
```diff
@@ -0,0 +1,146 @@
...
+        morph 0F 1F = n
+        morph 1F 0F = 0
+        morph 1F 1F = 1
+        
+        id : Fin (morph a a)
+        id {0F} = 0F -- 0F is the only inhabitant of Fin 1
+        id {1F} = 0F 
+
+        _∘_ : ∀ {a b c} → Fin (morph b c) → Fin (morph a b) → Fin (morph a c)
+        _∘_ {0F} {0F} {0F} 1₀ 1₀' = 1₀
```
Comment (JacquesCarette) [inline src/Categories/Category/Finite/Fin/Instance/HGraph.agda:51]: we tend to use `_` for unused arguments instead of giving them names.

File: src/Categories/Category/Finite/Fin/Instance/HGraph.agda [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+        _∘_ {0F} {0F} {1F} g 1₀   = g
+        _∘_ {1F} {1F} {1F} 1₁ 1₁' = 1₁
+        _∘_ {0F} {1F} {1F} 1₁ f   = f
+   
+        assoc : ∀ {f : Fin (morph a b)} {g : Fin (morph b c)} {h : Fin (morph c d)} →
```
Comment (JacquesCarette) [inline src/Categories/Category/Finite/Fin/Instance/HGraph.agda:56]: using private `variables` is great, unless you need to explicitly given them a value (as you do here). Then it is much better to actually give them explicitly (with different names, just to be sure) because of *ordering*. Between large versions of Agda, the algorithm that choose the ordering of insertion of implicit variable changes, causing all such code to break.  So here it is best to make them explicit.

File: src/Categories/Category/Finite/Fin/Instance/HGraph.agda [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+        identityˡ {0F} {0F} {0F} = refl
+        identityˡ {0F} {1F} {f} = refl
+        identityˡ {1F} {1F} {0F} = refl
+
+        identityʳ : ∀ {f : Fin (morph a b)} → (f ∘ id) ≡ f
+        identityʳ {0F} {0F} {f} = refl
+        identityʳ {0F} {1F} {f} = refl
+        identityʳ {1F} {1F} {0F} = refl
+
+open import Level
```
Comment (JacquesCarette) [inline src/Categories/Category/Finite/Fin/Instance/HGraph.agda:74]: please put all `open import` at the top of the file.

File: src/Categories/Category/Finite/Fin/Instance/HGraph.agda [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+
+Δₙ : ℕ → Category 0ℓ 0ℓ 0ℓ
+Δₙ n = FinCategory (HyperGraphShape n)
+
+----- Some Categories
+----- convential names should be found 
+
+open import Categories.Category.Instance.Sets
+
+2GraphSet : (o : Level) → Set (suc o)
```
Comment (JacquesCarette) [inline src/Categories/Category/Finite/Fin/Instance/HGraph.agda:84]: consider putting these instances in a separate file.

File: src/Categories/Category/Finite/Fin/Instance/HGraph.agda [hunk 5]
```diff
@@ -0,0 +1,146 @@
...
+nGraphSet : ℕ → (o : Level) → Set (suc o)
+nGraphSet n o = Presheaf (Δₙ n) (Sets o)
+
+----- Mapping to other constructions
+
+----- Map Δₙ 2 to Parallel 
+
+open import Categories.Category.Finite.Fin.Instance.Parallel as P
+
+Δ₂ : Category 0ℓ 0ℓ 0ℓ
```
Comment (JacquesCarette) [inline src/Categories/Category/Finite/Fin/Instance/HGraph.agda:102]: From here below, definitely belongs in separate file(s).

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Nice, thanks.  There are a few changes needed, but quite straightforward.

File: src/Categories/Category/Finite/Fin/Instance/HGraph.agda (hunk 1 above)
Comment (bblfish) [reply src/Categories/Category/Finite/Fin/Instance/HGraph.agda:51]: Ah yes. Here I thought it could help the reader to know that they were representing the identity morphism on 0. It gets quite confusing, with objects and morphisms being named by numbers.
But I see that one can argue the other way too :-)

**Comment by bblfish** [comment]
Thanks for the review. I wrote out Δ₂⇒∥ and should probably write out the other direction and to show that Δ₂ and ∥  equivalent. I did not do that, as I was not sure it would really be useful. Perhaps there is something more important to prove. But it's a good exercise anyway.

**Comment by JacquesCarette** [comment]
Are you intending to continue with this PR @bblfish ?

**Comment by bblfish** [comment]
> Are you intending to continue with this PR @bblfish ?

yes, definitely. 

I am taken up a bit work on [Solid](https://solidproject.org/) (see my [github issues](https://github.com/search?q=is%3Aopen+is%3Aissue+author%3Abblfish+archived%3Afalse)) and also got stuck trying to create delta sigma pi functors between delta2 and delta3 to Set functor categories see [agda.zulipchat](https://agda.zulipchat.com/#narrow/stream/259644-newcomers/topic/Help.20proving/near/217746644).

**Comment by JacquesCarette** [comment]
"soon" was now ~3 months ago...  Do you still intend to come back to this?

**Comment by bblfish** [comment]
Oh sorry. I got a funded project from the EU in January to [work on Solid Access Control](https://nlnet.nl/project/SolidControl/). That is taking up most of my time right now. Perhaps better close it, and I can reopen later when I get time again, if someone else did not get around to it.
